US05096899
p-Nitrobenzyl 5-azido-2-(4-chloro-2-oxo-1-azetidinyl)-4,4-dimethyl-3-oxopentanoate
286 μl of a solution containing 1.14 g/10 ml of chlorine in carbon tetrachloride are added to a solution of 110 mg of p-nitrobenzyl 5-azido-2-(4-tert-butylthio-2-oxo-1-azetidinyl)-4,4-dimethyl-3-oxopentanoate in 9 ml of methylene chloride at -60° C., and the mixture is subsequently stirred for 2 hours at -60° C. The reaction solution is evaporated in a rotary evaporator to give 119 mg of a yellow oil. IR spectrum in CH2Cl2 : 2930, 2860, 2105, 1780, 1755, 1720, 1610, 1530, 1350, 1190 cm-1.

reactant | chlorine | 10 ml | ClCl | Cl2
reactant | p-nitrobenzyl 5-azido-2-(4-tert-butylthio-2-oxo-1-azetidinyl)-4,4-dimethyl-3-oxopentanoate | 110 mg | N(=[N+]=[N-])CC(C(C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(CC1SC(C)(C)C)=O)=O)(C)C | C21H27N5O6S
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl 5-azido-2-(4-chloro-2-oxo-1-azetidinyl)-4,4-dimethyl-3-oxopentanoate | 119 mg | N(=[N+]=[N-])CC(C(C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(CC1Cl)=O)=O)(C)C | C17H18ClN5O6
